US07488831B2
Synthesis of 3-(3,5-dinitrophenyl)-5-hydroxy-1-methylpyrazole
Potassium ethyl malonate (11.0 g (0.07 mol)) was suspended in 100 mL of ethyl acetate, and 14.5 g (0.19 mol) of triethylamine and 6.9 g (0.08 mol) of magnesium chloride were sequentially added thereto with stirring under ice cooling. The resulting suspension liquid was stirred at 40° C. for 6 hours and again ice-cooled, and 11.5 g (0.05 mol) of 3,5-dinitrobenzoyl chloride was added dropwise thereto over 1 hour while keeping the reaction solution at 10° C. or less. After the dropwise addition, the stirring was continued at room temperature for 12 hours. Subsequently, 100 mL of 5% hydrochloric acid was added dropwise to the reaction solution, and the organic layer was separated. The obtained organic layer was washed twice with 50 mL of water and then with 30 mL of saturated brine, and the solvent was removed by distillation under reduced pressure. To the residue obtained by the concentration, 100 mL of ethanol was added, and 2.4 g (0.05 mol) of 97% methylhydrazine was then added dropwise at room temperature with stirring. After the dropwise addition, the solution was stirred at room temperature for 1 hour and subsequently at 80° C. for 3 hours. When the reaction was completed, the reaction solution was cooled to room temperature, 300 mL of water was added, and the produced crystal was collected by filtration. The crystal was washed twice with 50 mL of water, and the obtained crystal was recrystallized from 50% aqueous ethanol and dried by a hot air drier to obtain 4.2 g (yield: 30.2%) of the title compound as a red crystal.

reactant | Potassium ethyl malonate | 0.07 mol, 11.0 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | triethylamine | 0.19 mol, 14.5 g | C(C)N(CC)CC | C6H15N
reactant | magnesium chloride | 0.08 mol, 6.9 g | [Cl-].[Mg+2].[Cl-]
reactant | 3,5-dinitrobenzoyl chloride | 0.05 mol, 11.5 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | methylhydrazine | 0.05 mol, 2.4 g | CNN | CH6N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 300 mL | O | H2O
product | 3-(3,5-dinitrophenyl)-5-hydroxy-1-methylpyrazole | 4.2 g, yield: 30.2% | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1=NN(C(=C1)O)C | C10H8N4O5
